US05182263
5-(4-Bromophenyl)-2H-tetrazole (19.0 g, 81.9 mmol), t-butanol (12.1 g, 164 mmol), trifluoroacetic acid (80 mL) and concentrated sulfuric acid (4.6 g, 41 mmol) were stirred at ambient temperature for 24 hours. The mixture was concentrated and dissolved in ethyl acetate (200 mL). After washing with water (3×25 mL), 1M NaOH (3×25 mL) and brine (25 mL) the organic layer was dried (Na2SO4), filtered and concentrated. The oil was purified by chromatography on a Waters Prep 500 liquid chromatograph fitted with two silica gel cartridges eluting with a mixture of hexanes and ethyl acetate (9:1) to provide 5-(4-bromophenyl)-2-(1,1-dimethylethyl)-2H-tetrazole (17.1 g, 58.1 mmol) as a yellow oil in 71% yield.

reactant | 5-(4-Bromophenyl)-2H-tetrazole | 81.9 mmol, 19.0 g | BrC1=CC=C(C=C1)C=1N=NNN1 | C7H5BrN4
reactant | t-butanol | 164 mmol, 12.1 g | C(C)(C)(C)O | C4H10O
reactant | sulfuric acid | 41 mmol, 4.6 g | S(O)(O)(=O)=O | H2O4S
solvent | trifluoroacetic acid | 80 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(4-bromophenyl)-2-(1,1-dimethylethyl)-2H-tetrazole | 58.1 mmol, 17.1 g, 71% yield | BrC1=CC=C(C=C1)C=1N=NN(N1)C(C)(C)C | C11H13BrN4
